US04428955
7-[3-(4-Benzamidopiperidino)-propoxy]-2-methyl-4H-1-benzopyran-4-one
5.3 g. (0.03 mol) 7-hydroxy-2-methyl-4H-1-benzopyran-4-one are added to a solution of 0.69 g. (0.03 mol) sodium in 75 ml. propan-2-ol and the mixture heated under reflux for 10 minutes. 8.4 g. (0.03 mol) 3-(4-Benzamidopiperidino)-propyl chloride dissolved in 25 ml. propan-2-ol are added thereto, the mixture heated under reflux for 12 hours, evaporated and the residue taken up in dichloromethane and the solution washed with dilute aqueous sodium hydroxide solution. The organic phase is evaporated and the residue recrystallised from propan-2-ol. There are obtained 6.8 g. (54% of theory) 7-[3-(4-benzamidopiperidino)propoxy]-2-methyl-4H-1-benzopyran-2-one; m.p. 173°-175° C.

reactant | 7-hydroxy-2-methyl-4H-1-benzopyran-4-one | 0.03 mol | OC1=CC2=C(C(C=C(O2)C)=O)C=C1 | C10H8O3
reactant | sodium | 0.03 mol | [Na] | Na
reactant | 3-(4-Benzamidopiperidino)-propyl chloride | 0.03 mol | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCCl | C15H21ClN2O
solvent | propan-2-ol | CC(C)O | C3H8O
product | 7-[3-(4-Benzamidopiperidino)-propoxy]-2-methyl-4H-1-benzopyran-4-one | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCOC1=CC2=C(C(C=C(O2)C)=O)C=C1 | C25H28N2O4
